US05462941
0.10 g of 4-chloro-7-phenyl-furano[2,3-d]pyridazine and 0.165 g of (R)-1-cyclohexylethylamine was dissolved in 1 ml of N-methylpyrrolidone, and the solution was stirred at 140° C. for 6 hours. After cooling the solution, an aqueous 5% KOH solution was added thereto, and the solution was extracted with chloroform. By purifying the extract by silica gel chromatography, 0.061 g of (R)-4-(1-cyclohexylethylamino)-7-phenyl-furano[2,3-d]pyridazine was obtained.

reactant | 4-chloro-7-phenyl-furano[2,3-d]pyridazine | 0.10 g | ClC1=C2C(=C(N=N1)C1=CC=CC=C1)OC=C2 | C12H7ClN2O
reactant | (R)-1-cyclohexylethylamine | 0.165 g | C1(CCCCC1)[C@@H](C)N | C8H17N
reactant | KOH | [OH-].[K+]
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | (R)-4-(1-cyclohexylethylamino)-7-phenyl-furano[2,3-d]pyridazine | 0.061 g | C1(CCCCC1)[C@@H](C)NC1=C2C(=C(N=N1)C1=CC=CC=C1)OC=C2 | C20H23N3O
